US05972946
Preparation of 2-[2-(4-fluorophenyl)-5,6,7,8-tetrahydro-4-quinazolinyloxy]-N,N-dipropylacetamide:
To a mixture of 2-hydroxy-N,N-dipropylacetamide (1.8 g) and dimethylformamide (20 ml) is added sodium hydride (about 60% oily, 0.5 g) at 0 to 5° C., and the mixture is stirred at 0° C. for one hour. To the reaction mixture is added 4-chloro-2-(4-fluorophenyl)-5,6,7,8-tetrahydroquinazoline (2.0 g) at the same temperature, and the mixture is stirred at room temperature for four hours. To the mixture are added chloroform and ice-water, and the chloroform layer is collected, washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent; chloroform), and recrystallized from a mixture of diethyl ether and n-hexane to give the desired compound (2.2 g), m.p. 95-96° C.

reactant | 2-hydroxy-N,N-dipropylacetamide | 1.8 g | OCC(=O)N(CCC)CCC | C8H17NO2
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | 4-chloro-2-(4-fluorophenyl)-5,6,7,8-tetrahydroquinazoline | 2.0 g | ClC1=NC(=NC=2CCCCC12)C1=CC=C(C=C1)F | C14H12ClFN2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[2-(4-fluorophenyl)-5,6,7,8-tetrahydro-4-quinazolinyloxy]-N,N-dipropylacetamide | 2.2 g | FC1=CC=C(C=C1)C1=NC=2CCCCC2C(=N1)OCC(=O)N(CCC)CCC | C22H28FN3O2
